US06313122B1
Preparation of 4-[(Amino)(imino)methyl]-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine
To a stirred solution 4-[(amino)(hydroxyimino)methyl]-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine (0.50 g, 1.2 mmol), tetrahydrofuran (5 mL), water (25 mL), and 1 N aqueous hydrochloric acid (1.4 mL) in ethanol (50 mL) was added 10% palladium-on-carbon (250 mg). The vessel was placed under vacuum and the atmosphere was replaced with hydrogen (1 bar). After 12 h, the balloon was removed and the mixture was filtered through diatomaceous earth and concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated in vacuo to give 180 mg (35%) of the title compound.

reactant | 4-[(amino)(hydroxyimino)methyl]-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine | 1.2 mmol, 0.50 g | NC(C=1C=C(C(=CC1)NC(C1=CC=C(C=C1)OC)=O)NC(C1=CC=C(C=C1)OC)=O)=NO | C23H22N4O5
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 N, 1.4 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 250 mg | [Pd] | Pd
solvent | water | 25 mL | O | H2O
product | 4-[(Amino)(imino)methyl]-N1,N2-bis(4-methoxybenzoyl)-1,2-benzenediamine | 180 mg, 35% | NC(C=1C=C(C(=CC1)NC(C1=CC=C(C=C1)OC)=O)NC(C1=CC=C(C=C1)OC)=O)=N | C23H22N4O4
